US04761501
1-[1-(4-bromophenyl)-2-(dimethylamino)ethyl]cyclohexanol
Lithium aluminum hydride (0.7 g) was suspended in dry THF (25 ml) cooled to 0° C. and concentrated sulfuric acid (0.5 ml) cautiously added in an in situ preparation of aluminum hydride. The mixture was stirred for one hour at 0° C. and the amide, 1-[(4-bromophenyl)[dimethylaminocarbonyl]methyl]cyclohexanol (4 g, 0.012 mole) was dissolved in THF (35 ml) and added rapidly dropwise. The reaction mixture was stirred at 0° C. for one hour. A THF-water mixture (1:1 v/v 6 ml) was added slowly followed by 10% sodium hydroxide (10 ml). The mixture was filtered and the residue washed well with ethyl acetate. The combined filtrate was dried over anhydrous potassium carbonate and evaporated to an oil (3.5 g) which was converted to the hydrochloride salt using 4 N isopropanolic HCl.

reactant | Lithium aluminum hydride | 0.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | aluminum hydride | [H-].[Al+3].[H-].[H-]
reactant | 1-[(4-bromophenyl)[dimethylaminocarbonyl]methyl]cyclohexanol | 0.012 mole, 4 g | BrC1=CC=C(C=C1)C(C1(CCCCC1)O)C(=O)N(C)C | C16H22BrNO2
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 35 ml | C1CCOC1 | C4H8O
solvent | THF water | 6 ml | C1CCOC1.O
product | 1-[1-(4-bromophenyl)-2-(dimethylamino)ethyl]cyclohexanol | BrC1=CC=C(C=C1)C(CN(C)C)C1(CCCCC1)O | C16H24BrNO
